US05972929
(2) 2-{(4-Chlorobutanoyl)amino}-N-decylbenzamide
n-Decylamine (0.45 ml) was added to 2-(3-chloropropyl)-4H-3,I-benzoxazine-4-one (0.50 g). After being stirred for 45 minutes at 40° C., the reaction mixture was purified by silica gel column chromatography (silica gel 50 g, chloroform), thereby yielding 0.59 g of the aimed compound as light-yellow solid.

reactant | n-Decylamine | 0.45 ml | C(CCCCCCCCC)N | C10H23N
reactant | 2-(3-chloropropyl)-4H-3,I-benzoxazine-4-one | 0.50 g | ClCCCC1=NC2=C(C(O1)=O)C=CC=C2 | C11H10ClNO2
product | 2-{(4-Chlorobutanoyl)amino}-N-decylbenzamide | 0.59 g | ClCCCC(=O)NC1=C(C(=O)NCCCCCCCCCC)C=CC=C1 | C21H33ClN2O2
